US07632832B2
Step B. 1-Piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one
Diisobutylaluminum hydride (1M, 0.875 μL, 0.875 mmol) was added to a solution of methyl N-{[(1-(tert-butoxycarbonyl)piperidin-4-yl)amino]carbonyl}glycinate (230 mg, 0.729 mmol) in toluene (5 μL) and dichloromethane (5 mL) at −78° C. and stirred for 30 min and then warmed to ambient temperature. After 30 min at room temperature, the reaction was quenched with 1 N saturated potassium sodium tartrate solution (15 mL) and extracted with dichloromethane (2×). The combined organic extracts were dried over sodium sulfate, filtered, concentrated. The crude material was dissolved in dichloromethane (10 μL) and treated with trifluoroacetic acid (5 mL). After 25 min, the reaction was concentrated to give the title compound. MS 168.3 (M+1)

reactant | Diisobutylaluminum hydride | 0.875 mmol, 1M, 0.875 μL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl N-{[(1-(tert-butoxycarbonyl)piperidin-4-yl)amino]carbonyl}glycinate | 0.729 mmol, 230 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)NCC(=O)OC | C14H25N3O5
solvent | toluene | 5 μL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-Piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | N1CCC(CC1)N1C(NC=C1)=O | C8H13N3O
